US04816591
Reaction of 4-(2-ethoxycarbonyl-5-methoxybenzyloxy)phenylacetate with potassium hydroxide as described in Example 1c provides 4-(2-carboxy-5-methoxybenzyloxy)phenylacetic acid as colorless crystals, m.p. 198°-200° C.

reactant | 4-(2-ethoxycarbonyl-5-methoxybenzyloxy)phenylacetate | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)CC(=O)[O-])C=C(C=C1)OC
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(2-carboxy-5-methoxybenzyloxy)phenylacetic acid | C(=O)(O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=C(C=C1)OC | C17H16O6
